US07078405B2
8-Chloro-2-ethylimidazo[1,2-a]pyrazine-3-carboxylic acid methyl ester
3-Chloro-2-aminopyrazine (2.1 g, 16.2 mmol) and methyl 2-chloro-3-oxopentanoate (6.7 mL, 48.6 mmol) were mixed, and heated under stirring at 170° C. for 2 hours. After being allowed to cool, the unnecessary materials were filtered off and washed with ethyl acetate, and then filtrates were combined and evaporated. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give the title compound (0.99 g) as white crystals.

reactant | 3-Chloro-2-aminopyrazine | 16.2 mmol, 2.1 g | ClC=1C(=NC=CN1)N | C4H4ClN3
reactant | methyl 2-chloro-3-oxopentanoate | 48.6 mmol, 6.7 mL | ClC(C(=O)OC)C(CC)=O | C6H9ClO3
product | 8-Chloro-2-ethylimidazo[1,2-a]pyrazine-3-carboxylic acid methyl ester | 0.99 g | COC(=O)C1=C(N=C2N1C=CN=C2Cl)CC | C10H10ClN3O2
